US07238696B2
Preparation of 5-(4-Benzylpiperazin-1-yl)-3-(phenylsulfonyl)-1H-indazole hydrochloride
A stirred solution of 4-(4-benzylpiperazin-1-yl)-2-[(phenylsulfonyl)methyl]-aniline (0.371 g, 0.88 mmol) in 4.0 M aqueous hydrochloric acid is cooled in an ice bath, treated dropwise with NaNO2 (91 mg, 1.32 mmol) in water, stirred for 40 min, treated with 2.5 M aqueous NaOH to pH ˜14 and filtered. The filtercake is dissolved in CH2Cl2, and chromatographed (silica gel, ethyl acetate as eluent) to afford the free indazole of the title product as a yellow solid (276 mg, 64%). The solid is dissolved in a mixture of ethanol and CH2Cl2, treated with 4.0 M HCl in dioxane, and concentrated in vacuo to give a solid residue. The residue is triturated with ethyl acetate to afford the title product as an off-white solid, 278 mg (57% yield), mp 177–180° C., identified by NMR and mass spectral analyses.

reactant | 4-(4-benzylpiperazin-1-yl)-2-[(phenylsulfonyl)methyl]-aniline | 0.88 mmol, 0.371 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=C(N)C=C1)CS(=O)(=O)C1=CC=CC=C1 | C24H27N3O2S
reactant | NaNO2 | 1.32 mmol, 91 mg | N(=O)[O-].[Na+]
reactant | NaOH | 2.5 M | [OH-].[Na+]
reactant | hydrochloric acid | 4.0 M | Cl | ClH
solvent | water | O | H2O
product | 5-(4-Benzylpiperazin-1-yl)-3-(phenylsulfonyl)-1H-indazole hydrochloride | 276 mg, 64% | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C24H24N4O2S.ClH/c29-31(30,21-9-5-2-6-10-21)24-22-17-20(11-12-23(22)25-26-24)28-15-13-27(14-16-28)18-19-7-3-1-4-8-19;/h1-12,17H,13-16,18H2,(H,25,26);1H
